US09388137B2
In a 50 mL vial with a screw-top septum 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinic acid (300 mg, 0.9 mmol) was dissolved in DCM (5 mL). To the solution were added 1-ethyl-3-(3-dimethyl-aminopropyl) carbodiimide (144 mg, 0.9 mmol) and 1-hydroxybenzotriazole (63 mg, 0.46 mmol). The reaction mixture was stirred for 20 minutes at room temperature. Then, 2-morpholinoethanamine (121 mg, 0.9 mmol) was added. The reaction mixture was stirred for 20 hours at room temperature and was then chromatographed directly by combiflash without workup using a 40-gram silica column and a gradient of MeOH (40% max) in chloroform to provide 2-(4-(4-fluorophenoxy)phenyl)-6-methyl-N-(2-morpholinoethyl) isonicotinamide as a clear oil (142 mg). 1H NMR (CD3OD): 8.05-7.99 (m, 2 H), 7.98 7.94 (m, 1 H), 7.56-7.51 (m, 1 H), 7.19-7.03 (s, 6 H), 3.75-3.67 (m, 4 H), 3.62-3.54 (m, 2 H), 2.68-2.60 (m, 5 H), 2.59-2.52 (m, 4 H). LCMS: m/z=436 [M+H+]+.

reactant | 2-(4-(4-fluorophenoxy)phenyl)-6-methylisonicotinic acid | 0.9 mmol, 300 mg | FC1=CC=C(OC2=CC=C(C=C2)C=2C=C(C(=O)O)C=C(N2)C)C=C1 | C19H14FNO3
reactant | 1-hydroxybenzotriazole | 0.46 mmol, 63 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-morpholinoethanamine | 0.9 mmol, 121 mg | O1CCN(CC1)CCN | C6H14N2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-fluorophenoxy)phenyl)-6-methyl-N-(2-morpholinoethyl) isonicotinamide | 142 mg | FC1=CC=C(OC2=CC=C(C=C2)C=2C=C(C(=O)NCCN3CCOCC3)C=C(N2)C)C=C1 | C25H26FN3O3
